US05583147
To a stirred solution α-hexylthio-phenylacetate (204 mg) and 3-amino-2,4-bis(methylthio)-6-methyl-pyridine (146 mg) in methylene chloride (5 ml) was added dropwise 2M solution of trimethylaluminum in toluene (0.4 ml), and the mixture was refluxed for 16 hours. After cooling to 0° it was acidified slowly with 1N hydrochloric acid, and extracted with ethyl acetate twice. The combined extracts were washed with water and brine, dried (magnesium sulfate) and evaporated to give a solid residue. It was purified by a column chromatography on silica gel with elution by 2:8 ethyl acetate-hexane to give a solid residue. Crystallization from ethyl ether and hexane to provide pure N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]-α-hexylthio-phenylacetamide (24 mg).

reactant | α-hexylthio-phenylacetate | 204 mg | C(CCCCC)SC(C(=O)[O-])C1=CC=CC=C1
reactant | 3-amino-2,4-bis(methylthio)-6-methyl-pyridine | 146 mg | NC=1C(=NC(=CC1SC)C)SC | C8H12N2S2
reactant | trimethylaluminum | C[Al](C)C
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 0.4 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]-α-hexylthio-phenylacetamide | 24 mg | CSC1=NC(=CC(=C1NC(C(SCCCCCC)C1=CC=CC=C1)=O)SC)C | C22H30N2OS3
